US05760054
A solution of 4-piperidone hydrochloride hydrate (2 gram, 13 mmol), bromobutylphthalimide (3.67 gram, 13 mmol) and triethylamine (3.4 ml, 26 mmol) in Chloroform (25 ml) was refluxed overnight. The reaction mixture was washed with sat. NaHCO3 and was dried over Na2SO4. Purification using flash chromatography gave 4-(4'-ketopiperidinyl)butylphthalimide (0.85 gram).

reactant | 4-piperidone hydrochloride hydrate | 13 mmol, 2 gram | O.Cl.N1CCC(CC1)=O
reactant | bromobutylphthalimide | 13 mmol, 3.67 gram | BrCCCCC1=C2C(C(=O)NC2=O)=CC=C1 | C12H12BrNO2
reactant | triethylamine | 26 mmol, 3.4 ml | C(C)N(CC)CC | C6H15N
solvent | Chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(4'-ketopiperidinyl)butylphthalimide | 0.85 gram | O=C1CCN(CC1)CCCCC1=C2C(C(=O)NC2=O)=CC=C1 | C17H20N2O3
